US05220018
3-Amino-N-(2-propylsulfonyl)phenylcarboxamide
3-Nitro-N-(2-propylsulfonyl)phenylcarboxamide (0.6 g) was dissolved in 30 ml of ethanol, treated with 300 mg of 10% palladium/carbon catalyst, and hydrogenated on a Parr apparatus at 30 psi for 15 minutes. The reaction mixture was filtered through Celite and concentrated to give the title compound (307 mg) as a solid.

reactant | 3-Nitro-N-(2-propylsulfonyl)phenylcarboxamide | 0.6 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)NS(=O)(=O)C(C)C | C10H12N2O5S
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 300 mg | [Pd] | Pd
product | 3-Amino-N-(2-propylsulfonyl)phenylcarboxamide | 307 mg | NC=1C=C(C=CC1)C(=O)NS(=O)(=O)C(C)C | C10H14N2O3S
